US07858629B2
1-(3-Ethoxyphenyl)-2-(2-fluoro-4-methylphenyl)-1H-imidazole-4-carboxylic acid
N-(3-Ethoxyphenyl)-2-fluoro-4-methylbenzenecarboximidamide To a solution of 2.2 ml (4.4 mmol) of 2.0 M (in tetrahydrofuran) sodium bis(trimethylsilyl)amide in 10 mL of tetrahydrofuran at ambient temperature was added 0.52 mL (4.0 mmol) of 3-ethoxyaniline and the resulting solution was stirred for 20 min. To this reaction mixture was added 0.54 g (4.0 mmol) of 4-fluoro-4-methylbenzonitrile. The resulting mixture was stirred at ambient temperature for 3 hrs and then poured into brine (25 mL) and dichloromethane (50 mL). The organic layer was separated and the aqueous layer was extracted with dichloromethane (25 mL). The combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo to yield the title compound as a pale green solid which was used without further purification.

reactant | N-(3-Ethoxyphenyl)-2-fluoro-4-methylbenzenecarboximidamide | C(C)OC=1C=C(C=CC1)NC(=N)C1=C(C=C(C=C1)C)F | C16H17FN2O
reactant | sodium bis(trimethylsilyl)amide | 2.0 M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 3-ethoxyaniline | 4.0 mmol, 0.52 mL | C(C)OC=1C=C(N)C=CC1 | C8H11NO
reactant | 4-fluoro-4-methylbenzonitrile | 4.0 mmol, 0.54 g | FC1(CC=C(C#N)C=C1)C | C8H8FN
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | brine | 25 mL | [Cl-].[Na+].O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-(3-Ethoxyphenyl)-2-(2-fluoro-4-methylphenyl)-1H-imidazole-4-carboxylic acid | C(C)OC=1C=C(C=CC1)N1C(=NC(=C1)C(=O)O)C1=C(C=C(C=C1)C)F | C19H17FN2O3
